US07973164B2
Under an atmosphere of argon, a 1M solution of lithium hexamethyldisilazane in THF (1.1 ml) was added dropwise to a stirred solution of 3-tert-butoxycarbonylamino-5-methylisoxazole (Tet. Lett., 1996, 37, 3339-3342; 0.2 g) in THF (9 ml) that had been cooled to −5° C. After 10 minutes, a solution of dimethyl sulphate (0.1 ml) in THF (1 ml) was added dropwise and the resultant mixture was stirred at −5° C. for 2 hours. The mixture was evaporated and the residue was partitioned between methylene chloride and water. The organic phase was dried over magnesium sulphate and evaporated to give 3-(N-tert-butoxycarbonyl-N-methylamino)-5-methylisoxazole (0.19 g); 1H NMR: (CDCl3) 1.54 (s, 9H), 2.36 (s, 3H), 3.34 (s, 3H), 6.5 (br s, 1H).

reactant | lithium hexamethyldisilazane | C[Si](N[Si](C)(C)C)(C)C.[Li]
reactant | 3-tert-butoxycarbonylamino-5-methylisoxazole | 0.2 g | C(C)(C)(C)OC(=O)NC1=NOC(=C1)C | C9H14N2O3
reactant | dimethyl sulphate | 0.1 ml | S(=O)(=O)(OC)OC | C2H6O4S
solvent | THF | 1.1 ml | C1CCOC1 | C4H8O
solvent | THF | 9 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 3-(N-tert-butoxycarbonyl-N-methylamino)-5-methylisoxazole | 0.19 g | C(C)(C)(C)OC(=O)N(C)C1=NOC(=C1)C | C10H16N2O3
